US05948819
Synthesis of α-methoxy-N-methyl-(2,3,5-trimethyl-phenoxymethyl)phenylacetamide (Compound No. 465)
A solution of 2-chloromethyl-α-methoxy-N-methyl-phenylacetamide (0.25 g, 1.1 mmol) and 2,3,5-trimethylphenol (0.18 g, 1.3 mmol) in N,N-dimethylformamide (3 ml) was stirred at 0° C., and 60% oily sodium hydride (0.08 g, 2.0 mmol) was added thereto. The mixture was stirred at 0° C. for 70 minutes and then at room temperature for 1 hour, and ice and water were added in this order. The mixture was extracted with ethyl acetate, washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated, and the residue was purified by column chromatography on silica gel (n-hexane/ethyl acetate=7/3) to give the desired compound α-methoxy-N-methyl-(2,3,5-trimethylphenoxymethyl)phenylacetamide (0.17 g, 50%) as an oil.

reactant | 2-chloromethyl-α-methoxy-N-methyl-phenylacetamide | 1.1 mmol, 0.25 g | ClCC1=C(C=CC=C1)C(C(=O)NC)OC | C11H14ClNO2
reactant | 2,3,5-trimethylphenol | 1.3 mmol, 0.18 g | CC1=C(C=C(C=C1C)C)O | C9H12O
reactant | sodium hydride | 2.0 mmol, 0.08 g | [H-].[Na+]
reactant | water | O | H2O
reactant | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | α-methoxy-N-methyl-(2,3,5-trimethylphenoxymethyl)phenylacetamide | 0.17 g, 50% | COC(C(=O)NC)(C1=CC=CC=C1)COC1=C(C(=CC(=C1)C)C)C | C20H25NO3
